US06953806B2
2.2 g (6.88 mmol) trans-4-(4-benzyloxy-butoxy)-cyclohexanecarboxylic acid methylamide dissolved in 10 ml of tetrahydrofuran were added slowly to a suspension of 0.261 g of lithium aluminium hydride in 10 ml of tetrahydrofuran. The reaction mixture was then stirred at 50° C. for 2 hours, cooled to 0° C., treated with 2 g of ice, stirred at room temperature for 30 minutes, diluted with ethyl acetate, dried over sodium sulfate, filtered and evaporated to give 2.05 g (97.4%) trans-[4-(4-benzyloxy-butoxy)-cyclohexylmethyl]-methyl-amine as light brown viscous oil, MS: 306 (MH+).

reactant | trans-4-(4-benzyloxy-butoxy)-cyclohexanecarboxylic acid methylamide | 6.88 mmol, 2.2 g | CNC(=O)[C@@H]1CC[C@H](CC1)OCCCCOCC1=CC=CC=C1 | C19H29NO3
reactant | lithium aluminium hydride | 0.261 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-[4-(4-benzyloxy-butoxy)-cyclohexylmethyl]-methyl-amine | 2.05 g, 97.4% | C(C1=CC=CC=C1)OCCCCO[C@@H]1CC[C@H](CC1)CNC | C19H31NO2
